US07196079B2
2-Oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl 4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carboxylate
3-Hydroxy-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepine (40 mg, 0.12 mmol) and p-nitrophenylchloroformate (24.1 mg, 0.12 mmol) were dissolved in tetrahydrofuran (1 mL) under argon, and cooled to 0° C. Triethylamine (15 uL, 0.11 mmol) was added and the reaction stirred for 1.5 h. Additional triethylamine was added (33 uL, 0.24 mmol) along with 3-(4-piperidinyl)-3,4-dihydroquinazolin-2(1H)-one hydrochloride (32 mg, 0.12 mmol). The reaction was warmed to room temperature and stirred overnight. The reaction was concentrated and the residue triturated with methanol. The triturated solid was purified by reverse phase HPLC (C-18, 5% to 95% 0.1% trifluoroacetic acid/acetonitrile in 0.1% aqueous trifluoroacetic acid gradient elution), to yield the title compound (29 mg). MS 592.2181 (M+1)

reactant | 3-Hydroxy-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepine | 0.12 mmol, 40 mg | OC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F)=O | C17H13F3N2O2
reactant | Triethylamine | 0.11 mmol, 15 uL | C(C)N(CC)CC | C6H15N
reactant | 3-(4-piperidinyl)-3,4-dihydroquinazolin-2(1H)-one hydrochloride | 0.12 mmol, 32 mg | Cl.N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 2-Oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl 4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carboxylate | 29 mg | O=C1NC2=CC=CC=C2CN1C1CCN(CC1)C(=O)OC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F)=O | C31H28F3N5O4
